US08053431B2
To a solution of [1-(2-azidoethyl)-1H-benzimidazol-5-yl]-(3-hydroxy-8-aza-bicyclo[3.2.1]oct-8-yl)methanone (1.1 g, 0.0035 mol) in methanol (15 mL) was added 10% Pd/C (0.17 g) and the mixture hydrogenated at 3 kg pressure for 1 h. The catalyst was filtered over celite and the filtrate was concentrated to give [1-(2-aminoethyl)-1H-benzimidazol-5-yl]-(3-hydroxy-8-aza-bicyclo[3.2.1]oct-8-yl)methanone (0.87 g, 86%). MS-ES I m/z 315 (M+1).

reactant | [1-(2-azidoethyl)-1H-benzimidazol-5-yl]-(3-hydroxy-8-aza-bicyclo[3.2.1]oct-8-yl)methanone | 0.0035 mol, 1.1 g | N(=[N+]=[N-])CCN1C=NC2=C1C=CC(=C2)C(=O)N2C1CC(CC2CC1)O | C17H20N6O2
solvent | methanol | 15 mL | CO | CH4O
catalyst | Pd/C | 0.17 g | [Pd] | Pd
product | [1-(2-aminoethyl)-1H-benzimidazol-5-yl]-(3-hydroxy-8-aza-bicyclo[3.2.1]oct-8-yl)methanone | 0.87 g, 86% | NCCN1C=NC2=C1C=CC(=C2)C(=O)N2C1CC(CC2CC1)O | C17H22N4O2
